US08022062B2
3-tert-Butoxycarbonyl-7-chloro-6-(4-methanesulfonyloxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
To a stirred solution of 3-tert-butoxycarbonyl-7-chloro-6-(4-hydroxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (170 mg, 0.391 mmol) in anhydrous DCM under nitrogen, add methanesulfonyl chloride (33 μL, 0.426 mmol) and triethylamine (61 μL, 0.44 mmol) and continue stirring for 2 h. Dilute with water (5 mL) and extract three times with DCM. Wash the combined organic extracts with brine, dry over anhydrous Na2SO4, and concentrate in vacuo to obtain the desired intermediate that was used without purification.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(4-hydroxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.391 mmol, 170 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)CO | C23H28ClNO3S
reactant | methanesulfonyl chloride | 0.426 mmol, 33 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.44 mmol, 61 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 3-tert-Butoxycarbonyl-7-chloro-6-(4-methanesulfonyloxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)COS(=O)(=O)C | C24H30ClNO5S2
